US07632857B2
(2-Fluoro-4-pyrimidin-5-yl-phenyl)-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone
The title compound is prepared in a manner substantially analogous to Procedure SS starting from (4-bromo-2-fluoro-phenyl)-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone and 5-Pyrimidine boronic acid. MS (M+H) 355.2

reactant | (4-bromo-2-fluoro-phenyl)-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone | BrC1=CC(=C(C=C1)C(=O)N1[C@@H](CCC1)CN1CCCC1)F | C16H20BrFN2O
reactant | 5-Pyrimidine boronic acid | N1=CN=CC(=C1)B(O)O | C4H5BN2O2
product | (2-Fluoro-4-pyrimidin-5-yl-phenyl)-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone | FC1=C(C=CC(=C1)C=1C=NC=NC1)C(=O)N1[C@@H](CCC1)CN1CCCC1 | C20H23FN4O
